US07144876B2
({2-Chloro-5-[5-(3-chlorothiophen-2-yl)-[1,2,4]oxadiazol-3-yl]-phenyl}-methylamino)-acetic acid ethyl ester
To a yellow mixture of (2-chloro-5-[5-(3-chlorothiophene-2-yl)-[1,2,4]oxadiazol-3-yl]-phenylamino)-acetic acid ethyl ester (0.360 g, 0.903 mmol), paraformaldehyde (0.271 g, 9.03 mmol) and glacial acetic acid (4.5 mL) was added sodium cyanoborohydride (0.284 g, 4.51 mmol) in small portions over 5 min. The yellow mixture became a white suspension and was stirred overnight at room temperature. The white suspension was added to a 25% NaOH(aq) solution at 0° C. The aqueous layer was extracted with dichloromethane (50 mL), washed with brine (15 mL), dried over MgSO4, filtered and concentrated in vacuo. The clear oil was purified by flash column chromatography (silica gel, elution with EtOAc:hexanes, 1:5) to yield 0.362 g (96%) of the title compound as a white solid. 1H NMR (CDCl3): 7.94 (d, 1H, J=1.7 Hz), 7.73 (td, 1H, J=8.2, 1.9 and 1.7 Hz), 7.61 (dd, 1H, J=5.5, 5.2, 1.6 and 1.4 Hz), 7.45 (dd, 1H, J=8.5 and 1.4 Hz), 7.13 (dd, 1H, J=5.5, 5.2, 1.6 and 1.4 Hz), 4.18 (q, 2H, J=7.1 Hz), 4.04 (s, 2H), 3.07 (s, 3H), 1.26 (t, 3H, J=7.1 Hz).

reactant | (2-chloro-5-[5-(3-chlorothiophene-2-yl)-[1,2,4]oxadiazol-3-yl]-phenylamino)-acetic acid ethyl ester | 0.903 mmol, 0.360 g | C(C)OC(CNC1=C(C=CC(=C1)C1=NOC(=N1)C=1SC=CC1Cl)Cl)=O | C16H13Cl2N3O3S
reactant | paraformaldehyde | 9.03 mmol, 0.271 g | C=O | CH2O
reactant | sodium cyanoborohydride | 4.51 mmol, 0.284 g | C(#N)[BH3-].[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 4.5 mL | C(C)(=O)O | C2H4O2
product | ({2-Chloro-5-[5-(3-chlorothiophen-2-yl)-[1,2,4]oxadiazol-3-yl]-phenyl}-methylamino)-acetic acid ethyl ester | 0.362 g, 96% | C(C)OC(CN(C)C1=C(C=CC(=C1)C1=NOC(=N1)C=1SC=CC1Cl)Cl)=O | C17H15Cl2N3O3S
